US07109200B2
1-{[1-(Tert-butoxycarbonyl)-4-ethoxycarbonylamino-4-piperidinyl]methyl}-2-piperazinone
10% Palladium carbon (600 mg) was added to a solution of 4-benzyloxycarbonyl-1-{[1-(tert-butoxycarbonyl)-4-ethoxycarbonylamino-4-piperidinyl]methyl}-2-piperazinone (1.79 g) in ethanol (50 ml), and the mixture was stirred at room temperature for 15 hours under a nitrogen atmosphere. After the catalyst was filtered, the solvent was distilled off to obtain the colorless amorphous title compound (1.46 g).

reactant | 4-benzyloxycarbonyl-1-{[1-(tert-butoxycarbonyl)-4-ethoxycarbonylamino-4-piperidinyl]methyl}-2-piperazinone | 1.79 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C(=O)OC(C)(C)C)NC(=O)OCC)=O | C26H38N4O7
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Palladium carbon | 600 mg | [C].[Pd]
product | 1-{[1-(Tert-butoxycarbonyl)-4-ethoxycarbonylamino-4-piperidinyl]methyl}-2-piperazinone | 1.46 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(=O)OCC)CN1C(CNCC1)=O | C18H32N4O5
